US04202895
To a solution of 2.8 g of 2-[N-(2,2,2-trifluoroethyl)-trichloroacetamido]-5-chlorobenzophenone in 50 ml. of ethanol was added 4.6 g of ammonium acetate. The mixture was stirred and heated under reflux for 10 hours. Then the solvent was removed under reduced pressure. The residue was triturated with ether, filtered, washed with water and dried to give 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone. Recrystallization from ethanol gave pale yellow crystals, m.p. 185.0°-186° C.

reactant | 2-[N-(2,2,2-trifluoroethyl)-trichloroacetamido]-5-chlorobenzophenone | 2.8 g | FC(CN(C(C(Cl)(Cl)Cl)=O)C1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)(F)F | C17H10Cl4F3NO2
reactant | ammonium acetate | 4.6 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(2,2,2-trifluoroethyl)-4-phenyl-6-chloro-2(1H)-quinazolinone | FC(CN1C(N=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1)=O)(F)F | C16H10ClF3N2O
